2185-08-02 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2185-8-1**] 01:48 PM
   pt from 12R went for ERCP, s/p procedure was rigors,tachycardic,desats,
   admitted for close observation
 MULTI LUMEN - START [**2185-8-1**] 07:15 PM
 ARTERIAL LINE - START [**2185-8-1**] 07:16 PM
 BLOOD CULTURED - At [**2185-8-2**] 03:39 AM
 FEVER - 101.3
F - [**2185-8-1**] 01:30 PM
   [**2185-8-1**]
   - right IJ placed
   - left A line placed
   - started levophed for MAP > 60
   - low urinary output at 10PM (20cc/last hour) -> 250cc bolus over one
   hour increased urinary output 80cc/hour.
   - cards recs: ok to hold plavix, consider restart in a few days
   - needs antibiotic approval for meropenem in AM
   - hypotensive and therefore cycled trops -> CE: trops: 0.03. 0.02
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-1**] 05:00 PM
   Vancomycin - [**2185-8-1**] 07:46 PM
   Ciprofloxacin - [**2185-8-1**] 08:25 PM
   Meropenem - [**2185-8-2**] 03:10 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-2**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 69 (67 - 99) bpm
   BP: 119/49(74) {94/42(60) - 135/55(80)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: [**5-8**] (2 - 9)mmHg
   Total In:
                                                                  1,086 mL
                                                                    608 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    986 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    310 mL
   Urine:
                                                                    720 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.39/38/86/23/-1
   PaO2 / FiO2: 172
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, S/ND, NT to palpation
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   227 K/uL
   12.0 g/dL
   162 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   38.6 %
   19.8 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
   WBC
   14.8
   19.8
   Hct
   41.1
   38.6
   Plt
   283
   227
   Cr
   1.3
   1.1
   TropT
   0.03
   0.02
   0.03
   TCO2
   24
   Glucose
   146
   162
   Other labs: CK / CKMB / Troponin-T:142/3/0.03, ALT / AST:71/51, Alk
   Phos / T Bili:304/1.6, Differential-Neuts:79.0 %, Band:14.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Mg++:2.0
   mg/dL
   U/A: Neg nitrates, 30+ Pr, neg glc, 10 ketone, neg bili, pH5.5, 14
   RBC/HPF, 1WBC/HPF, neg eosinophils
   Urine Lytes: UreaN 542, Cr 90, Na 63, K 69, Cl 76
   MICRO:
   Blood cx ([**8-1**]): E. Coli:
             S- ampicillin, cefazolin, piperacillin, R- TMP/SMX,
   ciprofloxacin, gentamicin, I- tobramycin
   Blood cultures pending [**7-31**]
   Urine cx pending [**8-1**]
   MRSA screen pending [**8-1**]
   IMAGING:
   CXR ([**2185-8-1**]): Interval placement of right CVL. Tip difficult to see
   but likely ending near  the cavoatrial junction. Otherwise, no change
   from study performed 3.5 hours prior. No pneumothorax.
   CXR ([**2185-8-1**]): Dense opacity in the left retrocardiac region likely
   represents mitral valve annular calcification. PA and lateral chest x-
   rays are recommended to confirm this location and to exclude a lung
   abnormality.
   Assessment and Plan
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHOLANGITIS
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: 84 yoF w/ a h/o CAD, diastolic CHF, DMII, PVD
   presented initially with cholangitis to an OSH on [**7-28**]- transferred to
   [**Hospital1 5**] and underwent ERCP on [**8-1**]- post ERCP developed fever, rigors and
   tachycardia.
   .
   # Cholangitis: Rigors likely related to cholangiogram and transient
   sepsis.  OSH blood culture grew E. coli sensitive to cefazolin,
   ampicillin and piperacillin
   - discontinue  vanc
   - continue cipro until our cultures are back
   - switch meropenem to zosyn
    -repeat Blood culture
   -send u/a and ucx
   -obtain CXR
   .
   # Hypxoia: likely related to Acute on Chronic Diastolic CHF given
   rales- will obtain a CXR and ABG.
   -Cr slightly elevated, repeat now, if not increasing can diurese gently
   today with a goal of negative 500cc
   .
   # Acute renal failure: Cr 1.3, on [**7-31**] had been 1.1.
   -possibilities include pre-renal (send urine lytes), gent toxicity -
   unlikely, post renal, AIN
   -repeat creatinine
   -400cc in bladder w/o urinary urgency, follow urine output
   -send urine eos, u/a, cbc w/ diff
   .
   # DMII:
   - on insulin sliding scale, at home is on glipizide, hold glipizide
   while inpatient
   .
   # Delerium: improving quickly, likely related to fever, propofol,
   demerol, post procedure, bacteremia.
   .
   # Hypertension: hold antihypertensives for now as actively infected,
   restart when pt stable or if becomes hypertensive.
   .
   # CAD: severe angina and 3VD, on asa / plavix for subclavian stenosis
   (L side, feeding LIMA)
   -hold beta blocker and antihypertensives as above, restart low dose
   beta blocker if BP and HR tolerate later today or on [**8-2**].
   -continue ASA 81mg daily
   -cards had been consulted regarding plavix, f/u cards recs (last
   intervention [**12-9**]- coronary stent- bare metal, will hold for now as has
   been held this admission)
   .
   # Hyperlipidemia:
   -continue zetia
   -hold simvastatin until LFTs return to normal
   .
   # Depression / Dementia: continue celexa, remeron and abilify (home
   meds), hold ativan now given delerium.
   .
   FEN: Liquids for now, advance diet as MS has cleared.
   .
   Prophylaxis: Subutaneous heparin
   .
   Access: peripherals (22 x 2)
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: clear liquids, ADAT
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-08-02 10:46:00 Physician Attending Progress Note
Chief Complaint: sepsis post ercp
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   24 Hour Events:
 ERCP - At [**2185-8-1**] 01:48 PM
   pt from 12R went for ERCP, s/p procedure was rigors,tachycardic,desats,
   admitted for close observation
 MULTI LUMEN - START [**2185-8-1**] 07:15 PM
 ARTERIAL LINE - START [**2185-8-1**] 07:16 PM
 BLOOD CULTURED - At [**2185-8-2**] 03:39 AM
 FEVER - 101.3
F - [**2185-8-1**] 01:30 PM
   A-line and R IJ placed
   levophed started--titrating down
   urine outpt improved with IVF boluses, CVP 6-7, SVO2 74
   antibx broadened
   CEs checked and flat
   antibx changed ot [**Last Name (un) **], vanco, cipro
                                    History obtained from Patient, ho
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-1**] 05:00 PM
   Vancomycin - [**2185-8-1**] 07:46 PM
   Ciprofloxacin - [**2185-8-1**] 08:25 PM
   Meropenem - [**2185-8-2**] 03:10 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-1**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-2**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 65 (65 - 99) bpm
   BP: 120/49(73) {94/42(60) - 135/55(80)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 7 (2 - 9)mmHg
   Total In:
                                                                  1,086 mL
                                                                    748 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    986 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    390 mL
   Urine:
                                                                    720 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/38/86/23/-1
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), axilla
   and lsb
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l 1-2/3 up)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   227 K/uL
   162 mg/dL
   1.1 mg/dL (down from 1.3)
   23 mEq/L
   3.7 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   38.6 %
   19.8 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
   WBC
   14.8
   19.8
   Hct
   41.1
   38.6
   Plt
   283
   227
   Cr
   1.3
   1.1
   TropT
   0.03
   0.02
   0.03
   TCO2
   24
   Glucose
   146
   162
   Other labs: CK / CKMB / Troponin-T:142/3/0.03, ALT / AST:71/51 (down),
   Alk Phos / T Bili:304/1.6 (down), Differential-Neuts:79.0 %, Band:14.0
   %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Mg++:2.0
   mg/dL
   Fluid analysis / Other labs: FENA 0.06
   Imaging: no focal infiltrate, prominent MV calcification
   Microbiology: bl cx pending, urine cx pending
   OSH  bl with e coli
[**Last Name (un) 46**] ampicillin
   Assessment and Plan
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   Primary issues include:
          sepsis
          hypotension
          Cholangitis
          E coli bactermia
          UTI
          hypoxia
          leukocytosis,
          arf,
          d chf
          DM2
   Hypotension most concerning for sepsis most likey from transient
   biliary bacteremia in setting of ercp.  Pt with known e coli bacteremia
   from OSH and also with + u/a here.  E coli sensitiviteis now back and
   bug is [**Doctor Last Name **] to amp.Agree with plan to change to zosyna nd continue cipro
   pending f/u cx (urine).  Will stop vanco wi/ low threshold to resume if
   clinical change.  Her ARF has imrpoved and hypotension is improving.
   Her fena is c/w prerenal state and cvp 6-7.  Will bolus and wean off
   levophed, monitorng u/o, cvp and maps. LFTs are decreasing. Follow abgs
   and resp status closely.  Will resume plavix given sc stent.  Will
   repeat diff and montior elevated WBC.  Avoid nephrotoxins and renally
   dose meds.  ICU prophylaxis Start sq hep Remainder of plan as outlined
   in resident note.
   Patient is critically ill
   Total time: 45 min
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: will start)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-08-03 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-8-2**] 10:58 PM
 FEVER - 101.2
F - [**2185-8-3**] 12:00 AM
   [**2185-8-2**]
   - Levophed d/c-ed at 11:30AM with MAP= 70-80
   - Low urine output (15cc/hr): received x2 NS 250mL bolus at 11AM and
   10PM
   - levophed was re-started at low dose as pt continued to have low UOP
   and SBP in the 80s after 250cc bolus x2
   - after IVF, lungs sound more crackly, CVP up at 10-14 (up from [**6-8**] in
   AM), but continued to sat well on 2L NC
   - spiked fever to 100.3 at 8pm, blood cultures sent. vanc re-started.
   lactate re-checked.
   - Bile duct stent: Negative for malignant cells
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-1**] 05:00 PM
   Meropenem - [**2185-8-2**] 11:40 AM
   Ciprofloxacin - [**2185-8-2**] 09:34 PM
   Vancomycin - [**2185-8-2**] 11:30 PM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-2**] 07:31 PM
   Heparin Sodium (Prophylaxis) - [**2185-8-2**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 65 (61 - 81) bpm
   BP: 121/53(76) {95/44(63) - 144/65(87)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
    CVP: 10 (4 - 14)mmHg
   Total In:
                                                                  2,423 mL
                                                                    197 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                  1,923 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    475 mL
   Urine:
                                                                    760 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,663 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   212 K/uL
   12.0 g/dL
   209 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   135 mEq/L
   37.7 %
   18.1 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
   WBC
   14.8
   19.8
   18.1
   Hct
   41.1
   38.6
   37.7
   Plt
   [**Telephone/Fax (3) 8661**]
   Cr
   1.3
   1.1
   1.0
   TropT
   0.03
   0.02
   0.03
   TCO2
   24
   Glucose
   146
   162
   209
   Other labs:
   Differential-Neuts:80.9 %, Band:1.0 %, Lymph:13.9 %, Mono:4.9 %,
   Eos:0.3 %
   ALT / AST:61/46, Alk Phos / T Bili:257/0.9
   Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L
   Ca++:8.3 mg/dL (Ca corrected: 9.4), Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   MICRO:
   Urine cx [**7-31**], 31- no growth
   Blood cx ([**8-1**])- OSH: E. Coli:
             S- ampicillin, cefazolin, piperacillin, R- TMP/SMX,
   ciprofloxacin, gentamicin, I- tobramycin
   Blood cultures pending [**7-31**]
   MRSA screen pending [**8-1**]
   RADIO:
   CXR ([**8-3**])
   ERCP: Scout view demonstrates a plastic biliary stent in the right
   upper
   quadrant. Subsequent images demonstrate cannulation of the common bile
   duct
   with irregularity in the region of the stent, and stable common bile
   duct and
   intrahepatic ductal dilatation. No definite filling defects are seen.
   Stent
   removal and replacement is noted. Please refer to the operative note
   for
   further details.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHOLANGITIS
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: 84 yoF w/ a h/o CAD, diastolic CHF, DMII, PVD
   presented initially with cholangitis to an OSH on [**7-28**]- transferred to
   [**Hospital1 5**] and underwent ERCP on [**8-1**]- post ERCP developed fever, rigors and
   tachycardia.
   # Cholangitis: Rigors likely related to cholangiogram and transient
   sepsis.  OSH blood culture grew E. coli sensitive to cefazolin,
   ampicillin and piperacillin
   - discontinue  vanc
   - continue cipro until our cultures are back
   - switch meropenem to zosyn
    -repeat Blood culture
   - repeat WBC with differentials
   # Hypoxia: likely related to Acute on Chronic Diastolic CHF given
   rales. 99% on 2L O2.
   -  try to wean off NC O2 while checking O2 sats.
   -  diurese gently today with a goal of negative 30cc/hr. Check Cr
   tomorrow.
   -  follow abgs and resp status closely
   # Acute renal failure: Cr 1.1, on [**8-1**] had been 1.3.  Most likely due
   to pre-renal cause due to Cr decrease after fluid bolus and FENa of
   0.6.
   - repeat creatinine
   - follow urine output
   # DMII:
   - on insulin sliding scale, at home is on glipizide, hold glipizide
   while inpatient
   # Delerium: improving quickly, likely related to fever, propofol,
   demerol, post procedure, bacteremia.
   # Hypertension: hold antihypertensives for now as actively infected,
   restart when pt stable or if becomes hypertensive.
   - wean Levaphed with MAP goal of 65
   # CAD: severe angina and 3VD, on asa / plavix for subclavian stenosis
   (L side, feeding LIMA)
   -hold beta blocker and antihypertensives as above, restart low dose
   beta blocker if BP >140 and HR >100.
   -continue ASA 81mg daily
   -restart plavix.  cards had been consulted regarding plavix, f/u cards
   recs (last intervention [**12-9**]- coronary stent- bare metal)
   # Hyperlipidemia:
   -continue zetia
   -hold simvastatin until LFTs return to normal
   # Depression / Dementia: continue celexa, remeron and abilify (home
   meds), hold ativan.
   FEN: Advance diet to full liquids as MS has cleared.
   Prophylaxis: Subutaneous heparin
   Access: 22 Guage, multi lumen, a-line
   Code:  Full
   Communication: Patient
   Disposition: Critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer: Pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-08-03 11:56:00 Physician Attending Progress Note
Chief Complaint: sepsis post ercp
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   24 Hour Events:
 BLOOD CULTURED - At [**2185-8-2**] 10:58 PM
 FEVER - 101.2
F - [**2185-8-3**] 12:00 AM
   levophed weaned to off in am yesterday
   Had fever spike last night--> decreased u/o --> recurrent
   hypotension--> bolused IVS and transiently on levophed, now off
   Re cx'd
   vanco restarted
   History obtained from Patient, ho
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-1**] 05:00 PM
   Meropenem - [**2185-8-2**] 11:40 AM
   Ciprofloxacin - [**2185-8-2**] 09:34 PM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Vancomycin - [**2185-8-3**] 08:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-2**] 07:31 PM
   Heparin Sodium (Prophylaxis) - [**2185-8-2**] 09:34 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-3**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.5
C (97.7
   HR: 66 (61 - 81) bpm
   BP: 96/38(58) {95/38(58) - 144/65(87)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
   CVP: 7 (6 - 14)mmHg
   Total In:
                                                                  2,423 mL
                                                                    594 mL
   PO:
                                                                    500 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,923 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    750 mL
   Urine:
                                                                    760 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,663 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, flat
   jvd
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: ruq, no
   r/g
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, appropriate
   Labs / Radiology
   12.0 g/dL
   212 K/uL
   209 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   135 mEq/L
   37.7 %
   18.1 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
   WBC
   14.8
   19.8
   18.1
   Hct
   41.1
   38.6
   37.7
   Plt
   [**Telephone/Fax (3) 8661**]
   Cr
   1.3
   1.1
   1.0
   TropT
   0.03
   0.02
   0.03
   TCO2
   24
   Glucose
   146
   162
   209
   Other labs: CK / CKMB / Troponin-T:142/3/0.03, ALT / AST:61/46 (down),
   Alk Phos / T Bili:257/0.9 (down), Differential-Neuts:80.9 %, Band:1.0
   %, Lymph:13.9 %, Mono:4.9 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Imaging: cxr--full hilar vessels and edema, LLL atelectasis
   Microbiology: urine X 2 ngtd,
   bl cx here pending
   Assessment and Plan
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP now with recurrent fever and hypotension w/ ruq pain
   Primary issues include:
          sepsis
          hypotension
          Cholangitis
          E coli bactermia
          UTI
          hypoxia
          leukocytosis,
          arf (resolved)
          d chf
          DM2
   Recurrent ruq tenderness, fever, hypotension concering for ongoing
   biliary process despite improvement in lfts.  She continues to have
   significant leukocytosis.  Agree with plan to continue broad antibx
   (zosyn and cipro, adding back vanco), f/u cx data. Will follow serial
   abd exams and repeat lfts, d/w  ERCP team and obtain ruq ultrasound to
   reassess.  Bolus IVFs to maintain MAPS > 60 following, cvp and
   lactates. Her ARF has improved and her urine outpt is holding.   Her o2
   requirement has not icnreased significantly though her CXR shows full
   gilar vessels and LLL atelectasis.  Known d chf, but unable to diurese
   ins etting of hypotension.  Monitor abgs and resp status clsoely.
   Potential candidate for NPPV if resp status declines.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:  clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-08-04 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-3**]:
   - repeat LFTs were trending down
   - pain better (on Percecet)
   - advance to liquids, etc.
   - RUQ u/s: sludge, no cholecycstitis, pneumobilia from ERCP
   - still on Levophed (at 1300 and 1900 0.02), gave 250 cc NS bolus x2
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-8-2**] 11:40 AM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Vancomycin - [**2185-8-3**] 08:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-4**] 12:30 AM
   Ciprofloxacin - [**2185-8-4**] 04:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 62 (53 - 70) bpm
   BP: 119/59(79) {83/33(53) - 132/59(82)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
    CVP: [**2-8**] (2 - 10)mmHg
   Most recent: 5
   Total In:
                                                                  1,510 mL
                                                                    632 mL
   PO:
                                                                    120 mL
                                    TF:
   IVF:
                                                                  1,390 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    605 mL
   Urine:
                                                       1,515 mL (105cc/hr)
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   11.4 g/dL
   149 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   35.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
   WBC
   14.8
   19.8
   18.1
   12.7
   Hct
   41.1
   38.6
   37.7
   35.5
   Plt
   [**Telephone/Fax (3) 8684**]01
   Cr
   1.3
   1.1
   1.0
   1.0
   TropT
   0.03
   0.02
   0.03
   0.08
   TCO2
   24
   Glucose
   146
   162
   209
   149
   Other labs:
   ([**8-3**])  CK / CKMB / Troponin-T:44/3/0.08,
   ALT / AST:43/27 (47/32), Alk Phos / T Bili:216/0.7 (218/0.8), Amylase /
   Lipase:/14 ([**8-3**]),
   ([**8-3**]) Differential-Neuts:80.9 %, Band:1.0 %, Lymph:13.9 %, Mono:4.9 %,
   Eos:0.3 %,
   Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:129 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Bld/urine cx pending
   Liver/ GB U/S
   FINDINGS: Liver shows no focal or textural abnormalities. There is
   pneumobilia seen in the left lobe of the liver, presumably related to
   recent
   ERCP procedure. Biliary stent is visualized in place within the common
   bile
   duct. Stent patency cannot be assessed by ultrasound. There is no
   biliary
   ductal dilatation.
   The gallbladder is not distended, but contains a moderate amount of
   echogenic
   material most consistent with sludge, possibly some confluent balls of
   sludge.
   There is no gallbladder wall thickening or pericholecystic fluid.
   Son[**Name (NI) 1976**]
   [**Name2 (NI) **] sign was negative.
   Pancreas is partially obscured by bowel gas, though visualized portions
   are
   unremarkable.
   IMPRESSION:
   1. Gallbladder sludge. No evidence of acute cholecystitis.
   2. Pneumobilia, presumably related to recent ERCP procedure.
   CXR Today
   Assessment and Plan
   Assessment and Plan: 84 yoF w/ a h/o CAD, diastolic CHF, DMII, PVD
   presented initially with cholangitis to an OSH on [**7-28**]- transferred to
   [**Hospital1 5**] and underwent ERCP on [**8-1**]- post ERCP developed fever, rigors and
   tachycardia.
   # Cholangitis: Rigors likely related to cholangiogram and transient
   sepsis.  OSH blood culture grew E. coli sensitive to cefazolin,
   ampicillin and piperacillin
   - restart  vanc
 likely d/c tomorrow
   - discontinue cipro / zosyn today
   - followup with Blood cultures
   - repeat WBC with differentials
   - repeat urine culture
   - consider RUQ u/s. Followup with GI recs
   # Hypoxia: likely related to Acute on Chronic Diastolic CHF given
   rales. 99% on 2L O2.
   -  try to wean off NC O2 while checking O2 sats.
   -  diurese gently today with a goal of negative 30cc/hr. Check Cr
   tomorrow.
   -  follow abgs and resp status closely
   # right sided pain: musculoskeletal vs. atelectasis
   -not tachycardic or tachypnea, therefore less suggestive of PE
   -continue incentive spirometry
   -trend WBC
   # Acute renal failure: Cr 1.0, currently stable.
   - repeat creatinine
   - follow urine output
   # DMII:
   - on insulin sliding scale, at home is on glipizide, hold glipizide
   while inpatient
   # Delerium: improving quickly, likely related to fever, propofol,
   demerol, post procedure, bacteremia.
   # Hypotension: currently weaned off NE.  Restart with goal of MAP>65.
   - continue monitoring BP
   # CAD: severe angina and 3VD, on asa / plavix for subclavian stenosis
   (L side, feeding LIMA)
   -hold beta blocker and antihypertensives as above, restart low dose
   beta blocker if BP >140 and HR >100.
   -continue ASA 81mg daily
   -plavix added back to regimen.  cards had been consulted regarding
   plavix, f/u cards recs (last intervention [**12-9**]- coronary stent- bare
   metal)
   # Hyperlipidemia:
   -continue zetia
   -hold simvastatin until LFTs return to normal
   # Depression / Dementia: continue celexa, remeron and abilify (home
   meds), hold ativan.
   FEN: Hold at clear liquids until abdominal picture has resolved.
   Prophylaxis: Subutaneous heparin
   Access: 22 Guage, multi lumen, a-line
   Code:  Full
   Communication: Patient
   Disposition: Critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-08-04 13:40:00 Physician Attending Progress Note
Chief Complaint: cholangitis/sepsis post ercp
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ruq ultrasound
   off pressors since 4 am
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-8-2**] 11:40 AM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Ciprofloxacin - [**2185-8-4**] 04:10 AM
   Vancomycin - [**2185-8-4**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-4**] 12:13 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-4**] 08:33 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-4**] 01:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.4
   HR: 57 (53 - 70) bpm
   BP: 90/51(67) {83/37(58) - 124/60(81)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
   CVP: 9 (2 - 10)mmHg
   Total In:
                                                                  1,510 mL
                                                                    994 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,390 mL
                                                                    994 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                  1,325 mL
   Urine:
                                                                  1,515 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Bowel sounds present, Tender: ruq, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   201 K/uL
   149 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   35.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
   WBC
   14.8
   19.8
   18.1
   12.7
   Hct
   41.1
   38.6
   37.7
   35.5
   Plt
   [**Telephone/Fax (3) 8684**]01
   Cr
   1.3
   1.1
   1.0
   1.0
   TropT
   0.03
   0.02
   0.03
   0.08
   TCO2
   24
   Glucose
   146
   162
   209
   149
   Other labs: CK / CKMB / Troponin-T:44/3/0.08, ALT / AST:43/27, Alk Phos
   / T Bili:216/0.7 (down), Amylase / Lipase:/14, Differential-Neuts:80.9
   %, Band:1.0 %, Lymph:13.9 %, Mono:4.9 %, Eos:0.3 %, Lactic Acid:0.9
   mmol/L, Albumin:2.4 g/dL, LDH:129 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Imaging: ruq ultrasound, sludge, no acute process
   cxr lll atelectasis sm eff
   Microbiology: bl/urine ngtd, e coli from OSH bl cx
   Assessment and Plan
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   Issues include:
          sepsis
          hypotension
          Cholangitis
          E coli bactermia
          hypoxia
          leukocytosis,
          arf (resolved)
          d chf
          DM2
   AF X 24 hrs and off pressors since 4 am.  Leukocytosis and LFTs
   trending down. Bl cx from OSH with e coli, cx here NGTD. Agree with
   plan to continue zosyn and vanco given recurrent hypotension and fevers
   yesterday.  Can d/c cipro today and plan to d/c vanco tomorrow if cxs
   remain neg for GP or VRE. She continues to have intermittent ruq pain
   which we suspect is [**1-3**] pelurisy/inflammation. RUQ US was unrevealing
   and  her infection parameters are improving. CXR shows basilar
   atelectasis and sm effusions with unchanged O2 requirement. Will follow
   serial abd exams. Her ARF has improved and her urine outpt is
   holding.   Monitor BPs, giving IVFs if needed to maintain MAPS > 60,
   following cvp.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for close monitoring,  reassess for possible floor
   transfer later today
   Total time spent: 40 minutes
   Patient is critically ill

2185-08-05 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**Location (un) 8689**] hospital cultures: no new culture data.  1/2 bottles grew
   e.coli from [**8-2**]/
   -family updated
   -incentive spirometry
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-8-2**] 11:40 AM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Ciprofloxacin - [**2185-8-4**] 04:10 AM
   Vancomycin - [**2185-8-4**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-5**] 06:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-4**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-5**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 62 (56 - 65) bpm
   BP: 155/62(94) {89/43(58) - 155/65(94)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  1,201 mL
                                                                    269 mL
   PO:
   TF:
   IVF:
                                                                  1,201 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    310 mL
   Urine:
                                                                  1,860 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -659 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   223 K/uL
   11.4 g/dL
   145 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   35.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
                             [**2185-8-5**]  04:33 AM
   WBC
   14.8
   19.8
   18.1
   12.7
   10.2
   Hct
   41.1
   38.6
   37.7
   35.5
   35.2
   Plt
   [**Telephone/Fax (3) 8684**]01
   223
   Cr
   1.3
   1.1
   1.0
   1.0
   1.1
   TropT
   0.03
   0.02
   0.03
   0.08
   TCO2
   24
   Glucose
   146
   162
   209
   149
   145
   Other labs:
   ALT / AST:30/21 (43/27), Alk Phos / T Bili:219/0.7 (216/0.7)
   Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:128 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Urine Cx NGTD
   Bld Cx pending
   MRSA neg
   CXR neg
   Assessment and Plan
   Assessment and Plan: 84 yoF w/ a h/o CAD, diastolic CHF, DMII, PVD
   presented initially with cholangitis to an OSH on [**7-28**]- transferred to
   [**Hospital1 5**] and underwent ERCP on [**8-1**]- post ERCP developed fever, rigors and
   tachycardia.
   # Cholangitis: Rigors likely related to cholangiogram and transient
   sepsis.  OSH blood culture grew E. coli sensitive to cefazolin,
   ampicillin and piperacillin. U/S showed no evidence of cholangitis.
   - discontinue vanc
   - PICC line placement today to continue with zosyn
   - followup with Blood cultures
   - repeat WBC with differentials
   - ERCP in 6 weeks
   - Send off C. Diff in light of new onset diarrhea
   - D/C Foley, a-line, central line
   # Hypoxia: likely related to Acute on Chronic Diastolic CHF given
   rales. 99% on 2L O2.
   -  try to wean off NC O2 while checking O2 sats.
   -  diurese gently today with a goal of negative 30cc/hr. F/u Cr levels
   -  monitor resp status closely
   # Right sided pain: musculoskeletal vs. pleuritic (atelectasis/
   inflammation). Pain is controlled with percosets, taking 2x a day PRN.
   -not tachycardic or tachypnea, therefore less suggestive of PE
   -continue incentive spirometry
   - trend WBC
   - continue percoset for pain control
   # DMII:
   - on insulin sliding scale, at home is on glipizide, hold glipizide
   while inpatient
   # Hypotension: currently weaned off NE and stable.
   - continue monitoring BP and patient
s symptoms during episodes of
   hypotension.
   - PT/OT evaluation
   # CAD: severe angina and 3VD, on asa / plavix for subclavian stenosis
   (L side, feeding LIMA)
   -hold beta blocker and antihypertensives as above, restart low dose
   beta blocker if BP >160 and HR >100.
   -continue ASA 81mg daily
   -plavix added back to regimen.  cards had been consulted regarding
   plavix, f/u cards recs (last intervention [**12-9**]- coronary stent- bare
   metal)
   # Hyperlipidemia:
   -continue zetia
   -add back simvastatin
   # Depression / Dementia: continue celexa, remeron and abilify (home
   meds), hold ativan.
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2185-8-1**] 03:30 PM
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Hemodynamically stable ; consider transfer to floor
   status.

2185-08-05 09:33:00 Physician Attending Progress Note
Chief Complaint: sepsis post ercp, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca  admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   24 Hour Events:
   remains off pressors since 4 am yesterday
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2185-8-2**] 11:40 AM
   Piperacillin - [**2185-8-3**] 05:39 AM
   Ciprofloxacin - [**2185-8-4**] 04:10 AM
   Vancomycin - [**2185-8-4**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-5**] 06:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-5**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 61 (56 - 65) bpm
   BP: 128/71(92) {89/43(58) - 155/71(94)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 82.2 kg
   Height: 62 Inch
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  1,201 mL
                                                                    293 mL
   PO:
   TF:
   IVF:
                                                                  1,201 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    470 mL
   Urine:
                                                                  1,860 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -659 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present, Obese, mild ruq t
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   223 K/uL
   145 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   35.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2185-8-1**]  03:25 PM
                             [**2185-8-1**]  07:27 PM
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
                             [**2185-8-5**]  04:33 AM
   WBC
   14.8
   19.8
   18.1
   12.7
   10.2
   Hct
   41.1
   38.6
   37.7
   35.5
   35.2
   Plt
   [**Telephone/Fax (3) 8684**]01
   223
   Cr
   1.3
   1.1
   1.0
   1.0
   1.1
   TropT
   0.03
   0.02
   0.03
   0.08
   TCO2
   24
   Glucose
   146
   162
   209
   149
   145
   Other labs: CK / CKMB / Troponin-T:44/3/0.08, ALT / AST:30/21, Alk Phos
   / T Bili:219/0.7, Amylase / Lipase:/14, Differential-Neuts:80.9 %,
   Band:1.0 %, Lymph:13.9 %, Mono:4.9 %, Eos:0.3 %, Lactic Acid:0.9
   mmol/L, Albumin:2.5 g/dL, LDH:128 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Imaging: cxr-imporved b/b aeration, R IJ in position
   Microbiology: bl cx ngtd X osh e coli
   Assessment and Plan
   84 yo F with DM2, CAD, PVD, d CHF, and ? cholangioca admitted with
   cholangitis presents with sepsis (tachycardia, hypotension, fever)
   following ERCP
   Issues include:
          sepsis (resolved)
          hypotension (resolved)
          Cholangitis
          E coli bactermia
          hypoxia
          leukocytosis,
          arf (resolved)
          d chf
          DM2
   AF X 2 days hrs and off pressors since yesterday am.  Leukocytosis and
   LFTs continue to trend down. Bl cx from OSH with e coli, cx here remain
   neg/NGTD. Agree with plan to continue zosyn to complete 14 day course
   (day 7 antibx).  Can d/c vanco as no GP growth or VRE. Will have repeat
   ercp in several weeks per ercp team. New diarrhea
minimal but will send
   c diff.  She continues to have intermittent ruq pain which we suspect
   is [**1-3**] pelurisy/inflammation. RUQ US was unrevealing and  her infection
   parameters are improving. CXR clearer, with improved atelectasis and
   hilar fullness, doing well on minimal O2 and RA.  Consult PT, picc line
   then d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2990**], [**First Name3 (LF) 124**] d/c a line and foley. Continue OOB to chair.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2185-8-1**] 07:15 PM
   Arterial Line - [**2185-8-1**] 07:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition  stable for tTransfer to floor
   Total time spent: 35 minutes

2185-08-07 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-8-6**] 12:00 PM
   #1 of 2
 URINE CULTURE - At [**2185-8-6**] 12:00 PM
 MULTI LUMEN - START [**2185-8-6**] 12:11 PM
 STOOL CULTURE - At [**2185-8-6**] 12:16 PM
   for C diff
 PICC LINE - START [**2185-8-6**] 04:17 PM
   - pt came back to [**Hospital Unit Name 4**] for fever, tachycardia, hypotension
   - CT abdomen showed perforated loculated gallbladder, loculated in the
   right liver lobe.
   - surgery was consulted who rec percutaneous drainage by IR
   - IR was consulted for procedure to be done this AM
   - was on cipro and flagyl, so dc's cipro and started vanc/zosyn,
   continued flagyl
   - pt and daughter have elected not to pursue IR drainage
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-5**] 12:13 PM
   Ciprofloxacin - [**2185-8-6**] 08:07 PM
   Piperacillin - [**2185-8-7**] 01:07 AM
   Vancomycin - [**2185-8-7**] 05:25 AM
   Metronidazole - [**2185-8-7**] 05:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-6**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 70 (52 - 99) bpm
   BP: 127/46(66) {92/34(49) - 138/68(74)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
    CVP: 7 (4 - 10)mmHg
   Total In:
                                                                  1,217 mL
                                                                    782 mL
   PO:
   TF:
   IVF:
                                                                  1,217 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    690 mL
   Urine:
                                                                  1,010 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    207 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.44, 26, 61
   Physical Examination
   General: Rigoring initially, now more comfortable, initially slightly
   confused, then fully oriented
   HEENT: Sclera anicteric, MM slightly dry, oropharynx clear
   Neck: supple, right internal jugular line in place, slight ozzing from
   line.
   Lungs: Rales greater on left base over lower [**12-4**], and right side over
   base, moving good air
   CV: Borderline tachycardic, regular rate and rhythm, [**1-7**] HSM at the
   LLSB and apex
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. No guarding or rebound
   tenderness, no focal or reproducible tenderness.
   GU: foley in place
   Ext: warm, well perfused, slightly damp, trace bilateral non pitting
   pedal edema bilaterally
   Neuro: Awake, alert, conversing appropriately
   Labs / Radiology
   300 K/uL
   11.5 g/dL
   123 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.5 mEq/L
   7 mg/dL
   102 mEq/L
   141 mEq/L
   36.5 %
   20.9 K/uL
        [image002.jpg]
                             [**2185-8-1**]  10:47 PM
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
                             [**2185-8-5**]  04:33 AM
                             [**2185-8-6**]  10:30 AM
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
   WBC
   19.8
   18.1
   12.7
   10.2
   8.1
   22.1
   30.3
   20.9
   Hct
   38.6
   37.7
   35.5
   35.2
   37.6
   36.0
   37.7
   36.5
   Plt
   227
   212
   201
   223
   [**Telephone/Fax (2) 8727**]00
   Cr
   1.1
   1.0
   1.0
   1.1
   1.1
   1.1
   1.0
   0.9
   TropT
   0.02
   0.03
   0.08
   0.04
   0.16
   0.17
   0.11
   Glucose
   162
   209
   149
   145
   162
   142
   157
   123
   Other labs: PT / PTT / INR:12.5/27.1/1.1, CK / CKMB /
   Troponin-T:31/4/0.11, ALT / AST:26/28, Alk Phos / T Bili:239/0.7,
   Amylase / Lipase:/14, Differential-Neuts:80.6 %, Band:11.0 %,
   Lymph:13.2 %, Mono:4.3 %, Eos:1.5 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:188 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: pending
   -urine cx: [**8-6**]: pending
   -c. diff: [**8-6**]: negative
   Imaging:
   CT abdomen and pelvis ([**8-6**]):
   1.       contained gallbladder perforation into tight lobe of liver.
   Cholelithiasis
   2.       atrophy of interpolar left kidney with atherosclerotic changes
   of left renal artery
   3.       fibroid uterus
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis, returns to the the
   intensive care unit with rigors, hypotension, and fever.
   .
   # Fever, rigors:  Most likely secondary to perforated gallbladder,
   contained.  Underlying etiology of perforation unclear.  Surgery, ERCP,
   and IR have been following. Patient and daughter would not like to
   pursue any further IR drainage or surgery.
   - c. diff negative times two, continuing flagyl for diarrhea
   - continue broad spectrum antibiotics with vanc/zosyn, continued flagyl
   - repeat blood cultures, stool for c. difficile, urine analysis and
   culture; follow up exisiting cultures
   - Contact[**Name (NI) **] ERCP team about patient's change in status
 report no
   migration of the stent on CT.  Patient does not feel she would want to
   undergo repeat ERCP
   - lactate WNL, follow urine output, CVP (currently 8), small IVF bolus
   (LR) for MAP <65. Patient reported to team during rounds she does not
   wish to re-start pressors.
   .
   # Hypxoia: Mild hypoxia likly related to some degree of acute on
   chronic diastolic CHF given rales.
   - Fluid boluses as needed to support BP and UOP, though will have to be
   very mindful of respiratory status given DNI status.
   .
   # Troponin leak: Suspect likely to demand in setting of mild
   tachycardia with infectious process with known CAD with severe angina
   and 3VD, on asa / plavix for subclavian stenosis (L side, feeding
   LIMA). Currently HR is much improved.
   - Continue ASA, plavix
   - Work to reverse about processes, optimize fluid status, etc.
   - cardiac enzymes trended downwards.
   - Cardiology had been following, will re-consult if needed.
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia
   - Hold simvastatin until LFTs return to normal
   .
   # Depression / Dementia: continue celexa, remeron and abilify (home
   meds), hold ativan to keep mental status clear.
   .
   # FEN: NPO for now except meds, as MS clears can start diet
   .
   # Prophylaxis: Subutaneous heparin
   .
   # Access: Right IJ, left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Sips for now
   Glycemic Control: Insulin sliding scale
   Lines:
   Multi Lumen - [**2185-8-6**] 12:11 PM
   PICC
need to confirm placement on CXR and pull wire
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:  ICU for now

2185-08-08 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-7**]
   -ERCP recs: recommended IR drainage, but pt and family have decided not
   to pursue any intervention for perforated gallbladder
   -[**Doctor First Name **] recs: informed pt that without IR drainage, she may be dealing
   with a fatal decision
   -pending blood/urine cx
   -episode of chest/arm heaviness with T-wave inversions/ST depressions
   in leads V2-V5 around 9AM this morning
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-5**] 12:13 PM
   Ciprofloxacin - [**2185-8-6**] 08:07 PM
   Vancomycin - [**2185-8-7**] 02:11 AM
   Metronidazole - [**2185-8-7**] 10:00 PM
   Piperacillin - [**2185-8-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-8-7**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2185-8-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-8**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 69 (60 - 76) bpm
   BP: 125/45(65) {99/35(54) - 147/83(94)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
    CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  1,348 mL
                                                                    116 mL
   PO:
   TF:
   IVF:
                                                                  1,348 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    420 mL
   Urine:
                                                                  1,510 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -162 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   326 K/uL
   10.8 g/dL
   89 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   34.3 %
   13.5 K/uL
        [image002.jpg]
                             [**2185-8-2**]  03:32 AM
                             [**2185-8-3**]  03:23 AM
                             [**2185-8-3**]  05:42 PM
                             [**2185-8-4**]  04:19 AM
                             [**2185-8-5**]  04:33 AM
                             [**2185-8-6**]  10:30 AM
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
   WBC
   19.8
   18.1
   12.7
   10.2
   8.1
   22.1
   30.3
   20.9
   13.5
   Hct
   38.6
   37.7
   35.5
   35.2
   37.6
   36.0
   37.7
   36.5
   34.3
   Plt
   227
   212
   201
   223
   [**Telephone/Fax (2) 8727**]00
   326
   Cr
   1.1
   1.0
   1.0
   1.1
   1.1
   1.1
   1.0
   0.9
   0.9
   TropT
   0.03
   0.08
   0.04
   0.16
   0.17
   0.11
   Glucose
   162
   209
   149
   145
   162
   142
   157
   123
   89
   Other labs:
   Differential-Neuts:75.7 %, Band:11.0 %, Lymph:16.4 %, Mono:5.2 %,
   Eos:2.6 %,
   PT / PTT / INR:12.5/32.8/1.1
   CK / CKMB / Troponin-T:31/4/0.11
   ALT / AST:15/18, Alk Phos / T Bili:211(239)/0.5, Amylase / Lipase:/14,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:188 IU/L, Ca++:8.1
   (c9.22)mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: pending
   -urine cx: [**8-6**]: pending
   -c. diff: [**8-6**]: negative
   Imaging:
   CT abdomen and pelvis ([**8-6**]):
   1.       contained gallbladder perforation into tight lobe of liver.
   Cholelithiasis
   2.       atrophy of interpolar left kidney with atherosclerotic changes
   of left renal artery
   3.       fibroid uterus
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis, returns to the
   intensive care unit with rigors, hypotension, and fever.
   .
   #Chest pain: chest heaviness resolved within a minute with SL nitro.
   Patient states she has experienced this type of pain before.
   - increase ASA dose to 325
   - SL nitro PRN
   - MSIR 7.5mg PRN
   - place back on O2 NC
   - add metoprolol 25mg
   - repeat CEs
   .
   # Fever, rigors:  Most likely secondary to perforated gallbladder,
   contained.  Underlying etiology of perforation unclear.  Surgery, ERCP,
   and IR have been following. Patient and daughter would not like to
   pursue any further IR drainage or surgery.  C. diff negative times two.
   - d/c flagyl
   - continue broad spectrum antibiotics with vanc/zosyn
   - vanc trough in the AM
   - follow up exisiting cultures
   - Contact[**Name (NI) **] ERCP team about patient's change in status
 report no
   migration of the stent on CT.  Patient does not feel she would want to
   undergo repeat ERCP
   - lactate WNL, follow urine output, CVP (currently 7), small IVF bolus
   (LR) for MAP <65. Patient reported to team during rounds she does not
   wish to re-start pressors.
   - continue pain control with percoset PRN
   .
   # Hypxoia: Mild hypoxia likly related to some degree of acute on
   chronic diastolic CHF given rales.
   - Fluid boluses as needed to support BP and UOP, though will have to be
   very mindful of respiratory status given DNI status.
   .
   # Troponin leak: Suspect likely to demand in setting of mild
   tachycardia with infectious process with known CAD with severe angina
   and 3VD, on asa / plavix for subclavian stenosis (L side, feeding
   LIMA). Currently HR is much improved.
   - Continue ASA, plavix
   - Work to reverse processes, optimize fluid status, etc.
   - repeat CE in light of episode this morning
   - Cardiology had been following, will re-consult if needed.
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN: NPO for now except meds
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: Right IJ, left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-8-6**] 12:11 PM
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: pending clinical improvement

2185-08-10 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-9**]
- agreed to possible IR-guided drainage of collection. ID recs: d/c both vancomy
cin and zosyn and switch to ceftriaxone 2 grams IV q 24 hours and flagyl 500 mg
   hours (may switch to PO once her surgical plan is delineated).
   - palliative care recs: continuing percocet prn, please ensure good
   bowel regimen
   - d/c CVL
   - incr Vanc to 1250 mg q24h
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2185-8-8**] 06:03 PM
   Vancomycin - [**2185-8-9**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-9**] 07:05 PM
   Metronidazole - [**2185-8-9**] 11:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-9**] 07:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 67 (57 - 75) bpm
   BP: 131/33(59) {112/33(55) - 148/91(97)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,410 mL
                                                                     73 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    990 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    380 mL
   Urine:
                                                                  1,175 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   416 K/uL
   11.6 g/dL
   102 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   104 mEq/L
   137 mEq/L
   35.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2185-8-5**]  04:33 AM
                             [**2185-8-6**]  10:30 AM
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
   WBC
   10.2
   8.1
   22.1
   30.3
   20.9
   13.5
   12.0
   14.0
   Hct
   35.2
   37.6
   36.0
   37.7
   36.5
   34.3
   37.4
   35.7
   Plt
   223
   306
   285
   293
   300
   326
   391
   416
   Cr
   1.1
   1.1
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   TropT
   0.04
   0.16
   0.17
   0.11
   0.05
   0.04
   Glucose
   145
   162
   142
   157
   123
   89
   127
   102
   Other labs:
   PT / PTT / INR:16.7/40.3/1.5,
   ALT / AST:[**10-18**], Alk Phos / T Bili:194/0.4, Amylase / Lipase:/14
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:188 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: pending
   -urine cx: [**8-6**]: pending
   -c. diff: [**8-6**]: negative
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis, returns to the
   intensive care unit with rigors, hypotension, and fever.
   .
   #Chest pain: History of chest heaviness resolved within a minute with
   SL nitro.  Patient states she has experienced this type of pain
   before.  No further episodes since yesterday AM.
   - maintain ASA dose at 325
   - SL nitro PRN
   - MSIR 7.5mg PRN
   - cont metoprolol 12.5mg
   .
   # Fever, rigors:  Most likely secondary to perforated gallbladder,
   contained.  Underlying etiology of perforation unclear.  Surgery, ERCP,
   and IR have been following. Patient and daughter would not like to
   pursue any further IR drainage or surgery.  C. diff negative times two.
   Contact[**Name (NI) **] ERCP team about patient's change in status
 report no
   migration of the stent on CT.  Patient does not feel she would want to
   undergo repeat ERCP. Patient reported to team during rounds she does
   not wish to re-start pressors.
   - continue broad spectrum antibiotics with vanc/zosyn
   - increase vanc dose to 1250mg q24h
   - c/s ID for outpatient abx regimen
   - d/c cvl; maintain PICC line
   - follow up exisiting cultures
   - continue pain control with percoset PRN
   .
   # Hypxoia: Mild hypoxia likly related to some degree of acute on
   chronic diastolic CHF given rales.
   - Fluid boluses as needed to support BP and UOP, though will have to be
   very mindful of respiratory status given DNI status.
   .
   # Troponin leak: Suspect likely to demand in setting of mild
   tachycardia with infectious process with known CAD with severe angina
   and 3VD, on asa / plavix for subclavian stenosis (L side, feeding
   LIMA). Currently HR is much improved.
   - Continue ASA, plavix
   - Cardiology had been following, will re-consult if needed.
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN:
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: Right IJ, left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: c/o
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-08-10 15:00:00 Physician Attending Progress Note
Chief Complaint: ruptured gallbladder/contained
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2185-8-9**] 11:00 AM
   Subsequent discussion with patient later in the day yesterday led to
   her decision to proceed with percutaneous drainage in setting of
   contained ruptured gallbladder
   No pain overnight
   To IR for procedure - intially drain coiled around gallbladder
   requiring placement under CT guidance, placed through abscess
   Patient asking for pain medication upon return to ICU; localized to
   RUQ, denies chest pain or pressure - received percocet and 2 mg IV MSO4
   Also complained of nausea - given zofran
                                                  History obtained from Patient
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2185-8-8**] 06:03 PM
   Vancomycin - [**2185-8-9**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-9**] 07:05 PM
   Metronidazole - [**2185-8-10**] 07:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-10**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain, Nausea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-8-10**] 03:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 84 (60 - 84) bpm
   BP: 147/53(75) {111/33(59) - 150/74(88)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,410 mL
                                                                    247 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    990 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    685 mL
   Urine:
                                                                  1,175 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent, not taking
   deep breaths)
   Abdominal: Soft, drain in place - cloudy discharge
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   416 K/uL
   102 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   104 mEq/L
   137 mEq/L
   35.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2185-8-5**]  04:33 AM
                             [**2185-8-6**]  10:30 AM
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
   WBC
   10.2
   8.1
   22.1
   30.3
   20.9
   13.5
   12.0
   14.0
   Hct
   35.2
   37.6
   36.0
   37.7
   36.5
   34.3
   37.4
   35.7
   Plt
   223
   306
   285
   293
   300
   326
   391
   416
   Cr
   1.1
   1.1
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   TropT
   0.04
   0.16
   0.17
   0.11
   0.05
   0.04
   Glucose
   145
   162
   142
   157
   123
   89
   127
   102
   Other labs: PT / PTT / INR:16.7/40.3/1.5, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**10-18**], Alk Phos / T Bili:194/0.4,
   Amylase / Lipase:/14, Differential-Neuts:75.7 %, Band:11.0 %,
   Lymph:16.4 %, Mono:5.2 %, Eos:2.6 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:188 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Now hypertensive after procedure,
   experiencing pain.  Continues antibiotics as below.
 CHOLANGITIS, GALLBLADDER RUPTURE/CONTAINED:  Now s/p percutaneous
   drain placement. Getting pain meds, some splinting with poor
   respiratory effort.  Will continue CTX/flagyl, monitor for fever or
   hemodynamic instability.  Followup WBC with next labs.  Continue to
   monitor in ICU given she is high risk for bacerial seeding s/p
   procedure.
 DIABETES MELLITUS (DM), TYPE II:  Continue current management.
 H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Blood
   pressure elevated, treating pain.  No chest pain or pressure.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2185-08-11 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2185-8-10**] 11:00 AM
   [**8-9**]
   - IR Recs: drain placed in the gallbladder, will need reimaging in 1
   week.  Unlikely to require cholecystectomy.  Drain will likely need to
   be in place for 6 weeks.
   - Surgery recs: Will not need cholecystectomy.
   - ID Recs: switched ceftriaxone from 1 gram to 2 gm IV Q24H and
   continued metronidazole 500 mg IV Q8H.
   - palliative care recs: family meeting on [**8-11**] at 1:30 PM to discuss
   medical care and next steps in treatment
   - 7PM hct: 37.1
   - given 500 cc IVF d/t SBPs in 80s, responded to SBP > 100
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2185-8-8**] 06:03 PM
   Vancomycin - [**2185-8-9**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-10**] 08:12 PM
   Metronidazole - [**2185-8-11**] 12:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-10**] 08:02 AM
   Morphine Sulfate - [**2185-8-11**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 73 (60 - 84) bpm
   BP: 134/37(62) {91/26(52) - 163/75(106)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,480 mL
                                                                    664 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                     90 mL
   Urine:
                                                                    820 mL
                                                                 (10cc/hr)
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
                                                                     20 mL
   Balance:
                                                                    520 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema. Right lower ext colder than
   left. Neg [**Last Name (un) **]
s sign bilat.
   Labs / Radiology
   460 K/uL
   11.6 g/dL
   147 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   36.7 %
   18.9 K/uL
        [image002.jpg]
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
   WBC
   22.1
   30.3
   20.9
   13.5
   12.0
   14.0
   18.9
   Hct
   36.0
   37.7
   36.5
   34.3
   37.4
   35.7
   37.1
   36.7
   Plt
   285
   293
   300
   326
   391
   416
   460
   Cr
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TropT
   0.16
   0.17
   0.11
   0.05
   0.04
   Glucose
   142
   157
   123
   89
   127
   102
   147
   Other labs:
   PT / PTT / INR:13.2/36.1/1.1,
   ALT / AST:[**11-20**], Alk Phos / T Bili:194/0.5,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: pending
   -urine cx: [**8-6**]: pending
   -c. diff: [**8-6**]: negative
-Fluid gram:   GRAM STAIN (Final [**2185-8-10**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   - Fluid cx pending
   Studies:
   Successful CT and ultrasound guided percutaneous cholecystostomy.
   Approximately 130cc purulent material aspirated with subsequent
   decrease in
   size of both gallbladder and adjacent hepatic abscess. Samples sent for
   culture and gram stain. Small right lateral abdominal wall hematoma.
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis, returns to the
   intensive care unit with rigors, hypotension, and fever.
   .
   # Fever, rigors:  Most likely secondary to perforated gallbladder,
   contained.  Underlying etiology of perforation unclear.  Surgery, ERCP,
   and IR have been following. Patient is s/p IR drainage.
- continue ceftriaxone 2 grams IV q 24 hours and flagyl 500 mg q 8 h as per ID r
   - follow up exisiting cultures
   - continue pain control with morphine: switch to percoset if pain
   tolerated
   .
   # Hypxoia: Mild hypoxia likly related to some degree of acute on
   chronic diastolic CHF given rales.
   - Fluid boluses as needed to support BP and UOP, though will have to be
   very mindful of respiratory status given DNI status.
   - Continue insp spirometry
   .
   #Chest pain: History of chest heaviness resolved within a minute with
   SL nitro.  Patient states she has experienced this type of pain
   before.  No further episodes since yesterday AM.
   - SL nitro PRN, MSIR 7.5mg PRN, metoprolol 12.5mg
   - decrease ASA to 81mg
   .
   # Troponin leak: Suspect likely to demand in setting of mild
   tachycardia with infectious process with known CAD with severe angina
   and 3VD, on asa / plavix for subclavian stenosis (L side, feeding
   LIMA). Currently HR is much improved.
   - Continue ASA, plavix
   - Cardiology had been following.
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN: ADAT
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: Stable for c/o
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Stable for c/o

2185-08-11 12:11:00 Physician Attending Progress Note
Chief Complaint: cholangitis, perforated gallbladder
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2185-8-10**] 11:00 AM
   IR placed drain in abscess related to perforated gallbladder; small
   hematoma noted
   Overnight had significant pain requring 2-4 mg IV MS04 every 4 hours.
   Last dose at 7:30 am.
   Occasional nause, getting zofran
   Low urine output overnight
   Had episode of SBP 80's, asymptomatic, received IVF bolus with
   improvement
   CTX increased to 2 gm IV q 24 hours
   History obtained from Patient
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2185-8-8**] 06:03 PM
   Vancomycin - [**2185-8-9**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-10**] 08:12 PM
   Metronidazole - [**2185-8-11**] 07:47 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-8-11**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-11**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 63 (63 - 84) bpm
   BP: 113/42(61) {91/26(52) - 163/75(106)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,480 mL
                                                                    809 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    215 mL
   Urine:
                                                                    820 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
                                                                     20 mL
   Balance:
                                                                    520 mL
                                                                    594 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar; partially
   clear with deep breathing)
   Abdominal: Soft, Non-tender, Bowel sounds present, drain in place
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   460 K/uL
   147 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   36.7 %
   18.9 K/uL
        [image002.jpg]
                             [**2185-8-6**]  12:00 PM
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
   WBC
   22.1
   30.3
   20.9
   13.5
   12.0
   14.0
   18.9
   Hct
   36.0
   37.7
   36.5
   34.3
   37.4
   35.7
   37.1
   36.7
   Plt
   285
   293
   300
   326
   391
   416
   460
   Cr
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TropT
   0.16
   0.17
   0.11
   0.05
   0.04
   Glucose
   142
   157
   123
   89
   127
   102
   147
   Other labs: PT / PTT / INR:13.2/36.1/1.1, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**11-20**], Alk Phos / T Bili:194/0.5,
   Amylase / Lipase:/14, Differential-Neuts:75.7 %, Band:11.0 %,
   Lymph:16.4 %, Mono:5.2 %, Eos:2.6 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHOLANGITIS WITH PERFORATED GALLBLADDER now s/p percutaneous drain
   placement.  Afebrile albeit WBC increased to 18.9, differential
   pending.  Draining purulent, serosanguinous.continue morphine for pain
   control. Some splinting with deep breathing which we want to prevent as
   much as possible to minimize risk of developing respiraotry infection.
   Continue antibiotics.
 HYPOTENSION with low urine output. Has had poor appetite and poor po
   intake.  IVF, encourage po intatke.  Monitor.  At risk for sepsis given
   drain placed through the infected pocket. WBC elevated, diff pending.
   If she continues labile will repeat cultures.
 DIABETES MELLITUS (DM), TYPE II:  RISS.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Stable
 H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  No chest
   pain over last 24 hours.  Continue current regimen.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2185-08-12 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received x1 250cc bolus
   - fluid cx grew ceftriaxone sensitive e.coli
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-8-9**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-11**] 07:57 PM
   Metronidazole - [**2185-8-12**] 12:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-11**] 08:14 PM
   Morphine Sulfate - [**2185-8-12**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 59 (59 - 80) bpm
   BP: 83/43(53) {83/22(53) - 154/59(72)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,570 mL
                                                                    174 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                              (15-20cc/hr)
                                                                     80 mL
   Urine:
                                                                    400 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     15 mL
   Balance:
                                                                  1,110 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on left, lower [**12-4**] on right
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. No edema.
   Labs / Radiology
   453 K/uL
   10.9 g/dL
   139 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   6 mg/dL
   105 mEq/L
   137 mEq/L
   34.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
   WBC
   30.3
   20.9
   13.5
   12.0
   14.0
   18.9
   16.5
   Hct
   37.7
   36.5
   34.3
   37.4
   35.7
   37.1
   36.7
   34.8
   Plt
   293
   300
   326
   391
   416
   460
   453
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TropT
   0.17
   0.11
   0.05
   0.04
   Glucose
   157
   123
   89
   127
   102
   147
   139
   Other labs:
   PT / PTT / INR:13.5/36.9/1.2,
   ALT / AST:[**11-14**], Alk Phos / T Bili:163/0.4,
   Differential-Neuts:80.9 %, Band:11.0 %, Lymph:11.4 %, Mono:6.8 %,
   Eos:0.9 %,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: pending
   -urine cx: [**8-6**]: pending
   -c. diff: [**8-6**]: negative
-Fluid gram:   GRAM STAIN (Final [**2185-8-10**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
- Fluid cx: ESCHERICHIA COLI
                             |
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 I
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis s/p ERCP with
   subsequent contained perforated GB s/p GB drain placed.
   .
   # Fever, rigors:  Most likely secondary to perforated gallbladder,
   contained.  Underlying etiology of perforation unclear.  Surgery, ERCP,
   and IR have been following. Patient is s/p IR drainage.
- continue ceftriaxone 2 grams IV q 24 hours and flagyl 500 mg q 8 h as per ID r
   - follow up existing cultures
   - continue pain control with morphine: switch to percoset if pain
   tolerated
   .
   # Hypoxia: Mild hypoxia likely related to some degree of acute on
   chronic diastolic CHF given rales.
   - Fluid boluses as needed to support BP and UOP, though will have to be
   very mindful of respiratory status given DNI status.
   - Continue insp spirometry
   .
   #Chest pain: History of chest heaviness resolved within a minute with
   SL nitro.  Patient states she has experienced this type of pain
   before.  No further episodes since yesterday AM.
   - SL nitro PRN, MSIR 7.5mg PRN, metoprolol 12.5mg
   - decrease ASA to 81mg
   .
   # Troponin leak: Suspect likely to demand in setting of mild
   tachycardia with infectious process with known CAD with severe angina
   and 3VD, on asa / plavix for subclavian stenosis (L side, feeding
   LIMA). Currently HR is much improved.
   - Continue ASA, plavix
   - Cardiology had been following.
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN: ADAT
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: Stable for c/o
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: c/o

2185-08-12 12:04:00 Physician Attending Progress Note
Chief Complaint: cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   cholangitis, ERCP, contained perforated GB/abscess, percutaneous drain
   24 Hour Events:
   Hemodynamically stable overnight
   On IV maintenance fluids given poor po intake
   Still noting [**6-10**] pain
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-8-9**] 11:44 AM
   Ceftriaxone - [**2185-8-11**] 07:57 PM
   Metronidazole - [**2185-8-12**] 08:54 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-8-11**] 08:14 PM
   Morphine Sulfate - [**2185-8-12**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-12**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 65 (59 - 80) bpm
   BP: 112/45(62) {83/22(53) - 154/59(72)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,570 mL
                                                                    317 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    190 mL
   Urine:
                                                                    400 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     15 mL
   Balance:
                                                                  1,110 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, poor inspiratory
   effort)
   Abdominal: Soft, Non-tender, Bowel sounds present, drain in place,
   purulent/serosanguinous
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   453 K/uL
   139 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   6 mg/dL
   105 mEq/L
   137 mEq/L
   34.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2185-8-6**]  08:00 PM
                             [**2185-8-7**]  04:39 AM
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
   WBC
   30.3
   20.9
   13.5
   12.0
   14.0
   18.9
   16.5
   Hct
   37.7
   36.5
   34.3
   37.4
   35.7
   37.1
   36.7
   34.8
   Plt
   293
   300
   326
   391
   416
   460
   453
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TropT
   0.17
   0.11
   0.05
   0.04
   Glucose
   157
   123
   89
   127
   102
   147
   139
   Other labs: PT / PTT / INR:13.5/36.9/1.2, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**11-14**], Alk Phos / T Bili:163/0.4,
   Amylase / Lipase:/14, Differential-Neuts:80.9 %, Band:11.0 %,
   Lymph:11.4 %, Mono:6.8 %, Eos:0.9 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):
 CHOLANGITIS: Now has percutaneous drain for perforated GB, contained
   abscess.  Growing E.Coli sensitive to CTX.  Also continues flagyl.  WBC
   slightly decreased.
 RESPIRATORY FAILURE:  Requiring nasal canula.  Some crackles on exam
   likely secondary to atelectasis (splinting from pain, lying in bed) vs.
   fluid.  At risk for developing PNA.  Get out of bed to chair, insentive
   spirometry, CXR, gentle diuresis with goal of 500 to 1000 cc negative.
   Follow electrolytes.
 ANEMIA:  Hematoma at drain insertion.  Will repeat hct.  No evident
   change in exam.
 DIABETES MELLITUS (DM), TYPE II:  RISS, diabetic diet.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Positive fluid balance,
   crackles on exam.  Gentle diuresis as above.
 H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Denies
   chest pain.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-8-6**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :  Stable for transfer to medical floor
   Total time spent:  40 minutes

2185-08-13 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2185-8-12**] 07:10 PM
 PICC LINE - START [**2185-8-12**] 08:06 PM
   - ID recs: continue abx, duration to be determined once surgical plan
   is delineated - bc of GB wall rupture, chronic communication between
   gut and peritoneal cavity -> cannot be cured by abx alone, but if PC
   approach, then will try to design a chronic suppressive oral regimen to
   prevent worsening (not curative)
   - was OOB in chair
   - gave Lasix 10 mg IV x1 -> with 50 cc/hr following (last few hours
   25-35 cc/h)
   - Surgery recs: reg diet, abx
   - was called out, got a bed at night so did not send her, will callout
   in AM
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-8-12**] 07:27 PM
   Metronidazole - [**2185-8-12**] 10:57 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-8-12**] 03:38 PM
   Heparin Sodium (Prophylaxis) - [**2185-8-12**] 08:27 PM
   Morphine Sulfate - [**2185-8-13**] 03:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-13**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 66 (56 - 72) bpm
   BP: 90/36(50) {90/30(49) - 128/72(96)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                    690 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                    690 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                    522 mL
                                                                    135 mL
   Urine:
                                                                    507 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                    168 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on right and left lungs.
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. 1+ edema at ankles.
   Labs / Radiology
   504 K/uL
   11.0 g/dL
   130 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   34.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
                             [**2185-8-12**]  06:10 PM
                             [**2185-8-13**]  03:28 AM
   WBC
   13.5
   12.0
   14.0
   18.9
   16.5
   14.6
   Hct
   34.3
   37.4
   35.7
   37.1
   36.7
   34.8
   34.7
   34.0
   Plt
   326
   391
   416
   460
   453
   504
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   TropT
   0.05
   0.04
   Glucose
   89
   127
   102
   147
   139
   157
   130
   Other labs: PT / PTT / INR:13.8/34.5/1.2, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**8-14**], Alk Phos / T Bili:158/0.3,
   Amylase / Lipase:/14, Differential-Neuts:80.9 %, Band:11.0 %,
   Lymph:13.3 %, Mono:4.1 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:166 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Micro:
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: no growth
   -urine cx: [**8-6**]: no growth
   -c. diff: [**8-6**]: negative
-Fluid gram:   GRAM STAIN (Final [**2185-8-10**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
- Fluid cx: ESCHERICHIA COLI
                             |
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 I
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R
   CXR: ([**8-12**]): bibasilar atelectasis related to low lung volumes
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis s/p ERCP with
   subsequent contained perforated GB s/p GB drain placed.
   .
   # Fever, rigors:  Resolved.  Most likely secondary to perforated
   gallbladder, contained.  Underlying etiology of perforation unclear.
   Surgery, ERCP, and IR have been following. Patient is s/p IR drainage.
   Fluid culture: e. coli.
- continue ceftriaxone 2 grams IV q 24 hours and flagyl 500 mg q 8 h as per ID r
   - f/u with ID regarding chronic suppressive oral regimen.  This
   treatment will not be curative, as there is constant communication
   between gallbladder and peritoneum.
   - continue pain control with morphine
   .
   # Hypoxia: Mild hypoxia likely related to some degree of acute on
   chronic diastolic CHF given rales.  Evidence of fluid overload on
   physical exam.
   - Continue insp spirometry 10 x per hour.
   - CXR today
   - start lasix 40mg PO today
   - get patient out of bed
   .
   #Chest pain: Resolved.  History of chest heaviness resolved within a
   minute with SL nitro.  Patient states she has experienced this type of
   pain before.  No further episodes since yesterday AM.
   - SL nitro PRN, MSIR 7.5mg PRN, metoprolol 12.5mg, ASA 81mg, plavix
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN: Full diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: Stable for c/o today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-12**] 08:06 PM
   Prophylaxis:
   DVT: sub q heparin
   Stress ulcer:  H2 blocker
   VAP:  None
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: c/o this AM

2185-08-13 08:47:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2185-8-12**] 07:10 PM
 PICC LINE - START [**2185-8-12**] 08:06 PM
 CALLED OUT
   -PICC PLACED
   -OOB to chair
   -Lasix tolerated with urine output remaining at 35-50 cc/hr
   -Regular diet tolerated
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-8-12**] 07:27 PM
   Metronidazole - [**2185-8-12**] 10:57 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-8-12**] 03:38 PM
   Heparin Sodium (Prophylaxis) - [**2185-8-12**] 08:27 PM
   Morphine Sulfate - [**2185-8-13**] 03:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Cough
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2185-8-13**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 67 (56 - 72) bpm
   BP: 87/54(59) {87/30(49) - 128/72(96)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                    690 mL
                                                                     85 mL
   PO:
             TF:
   IVF:
                                                                    690 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                    522 mL
                                                                    135 mL
   Urine:
                                                                    507 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                    168 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**2-4**]
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   lateral bases, Diminished: )
   Abdominal: Soft, No(t) Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   504 K/uL
   130 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   34.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-8-8**]  04:45 AM
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
                             [**2185-8-12**]  06:10 PM
                             [**2185-8-13**]  03:28 AM
   WBC
   13.5
   12.0
   14.0
   18.9
   16.5
   14.6
   Hct
   34.3
   37.4
   35.7
   37.1
   36.7
   34.8
   34.7
   34.0
   Plt
   326
   391
   416
   460
   453
   504
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   TropT
   0.05
   0.04
   Glucose
   89
   127
   102
   147
   139
   157
   130
   Other labs: PT / PTT / INR:13.8/34.5/1.2, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**8-14**], Alk Phos / T Bili:158/0.3,
   Amylase / Lipase:/14, Differential-Neuts:80.9 %, Band:11.0 %,
   Lymph:13.3 %, Mono:4.1 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:166 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR--[**8-12**]--no free air, GB drain in good position, PICC in
   left axilla but limited image
   Assessment and Plan
   84 yo female with h/o CHF presenting with cholangitis and now s/p
   perforated GB and with percutaneous drainage in place
   1)Cholangitis--This is complicated by GB perforation with percutaneous
   drainage in place and concern for ongoing leakage requiring chronic
   supression in the setting of current goals of care.  AP and T. Bili
   remain diminished.  No further blood cultures positive and E. Coli
   remains pathogen identified.
   Cholangitis-
   -CTX and Flagyl
   -Have advanced diet and well tolerated by patient report and follow up
   enzymes and WBC count
   Gall Bladder Perforation-
   -Drain in place, source of perforation may well be area of necrosis and
   long term drainage seems likely to be required
   -Will need to consider chronic supression with antibiotics but will
   defer to ID service on suggestions
   -Pain control well effected with MSO4
   2)Congestive heart Failure--Diastolic and Acute on Chronic-
   -Lopressor in place, rate well controlled
   -Will use Lasix PRN
   -O2 in place with support with 2 liters
   3)PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -MSO4 with good effect
   4)Hypoxia
this is multifactorial and currently dominated by
   atelectasis, mild fluid overload and splinting with pain.
   -Incentive Spirometry
   -OOB to chair
   -MSO4 for pain
   -Lasix only as needed
   ICU Care
   Nutrition: po diet to continue
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-12**] 08:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2185-08-14 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**8-13**]:
   - ID recs: continue ceftriaxone.  Without surgery, will need to follow
   with scans and clinical appearance.  Will add on sensitivity to
   tetracyclines to see if this is possible alternative oral [**Doctor Last Name **].
   Unfortunately, patient's e coli is resistant to cipro, bactrim.
   - restarted PO lasix 40mg daily
   - called out early in AM.  Awaiting bed.
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-8-13**] 07:17 PM
   Metronidazole - [**2185-8-13**] 11:35 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2185-8-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-8-13**] 07:17 PM
   Morphine Sulfate - [**2185-8-14**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.4
   HR: 61 (57 - 81) bpm
   BP: 110/38(55) {87/29(49) - 121/68(77)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                    640 mL
                                                                     71 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    490 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    375 mL
   Urine:
                                                                    910 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     50 mL
   Balance:
                                                                   -330 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: A+O to person, place, and time. NAD
   Neck: No JVD, no hepatojugular reflex.
   CV: RRR with occasional ectopic beats. NL S1/S2, no S3/S4. [**2-4**] syst
   cres/decres murmur best heart at LUSB with radiation to carotids. [**1-7**]
   syst holosyst murmur at apex with radiation to axilla.
   Lungs: Crackles heard lower
 on right and left lungs.
   Abd: +BS, soft, slightly distended, tender to palpation on RUQ
   Ext: Peripheral pulses intact. 1+ edema at ankles.
   Labs / Radiology
   516 K/uL
   10.3 g/dL
   127 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   31.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
                             [**2185-8-12**]  06:10 PM
                             [**2185-8-13**]  03:28 AM
                             [**2185-8-14**]  04:38 AM
   WBC
   12.0
   14.0
   18.9
   16.5
   14.6
   10.1
   Hct
   37.4
   35.7
   37.1
   36.7
   34.8
   34.7
   34.0
   31.7
   Plt
   391
   416
   460
   453
   504
   516
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   TropT
   0.05
   0.04
   Glucose
   127
   102
   147
   139
   157
   130
   127
   Other labs:
   Differential-Neuts:76.9 %, Band:11.0 %, Lymph:14.7 %, Mono:6.1 %,
   Eos:2.2 %,
   PT / PTT / INR:14.2/41.5/1.2,
   ALT / AST:[**4-11**], Alk Phos / T Bili:137 (158)/0.3,
   Albumin:2.5 g/dL,, Ca++:8.3 (9.5c)mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   -blood cx: [**8-1**], [**8-2**], [**8-3**], [**8-6**]: no growth
   -urine cx: [**8-6**]: no growth
   -c. diff: [**8-6**]: negative
-Fluid gram:   GRAM STAIN (Final [**2185-8-10**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
- Fluid cx: ESCHERICHIA COLI
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 I
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R
   Assessment and Plan
   Patient is an 84 year old female with history of coronary artery
   disease, diastolic CHF, DMII, PVD who presented with cholangitis
   secondary to stent migration with E. Coli sepsis s/p ERCP with
   subsequent contained perforated GB s/p GB drain placed.
   .
   # Fever, rigors:  Resolved.  Most likely secondary to perforated
   gallbladder, contained.  Underlying etiology of perforation unclear.
   Surgery, ERCP, and IR have been following. Patient is s/p IR drainage.
   Fluid culture: e. coli.
- continue ceftriaxone 2 grams IV q 24 hours and flagyl 500 mg q 8 h as per ID r
   - f/u with ID regarding chronic suppressive oral regimen.  This
   treatment will not be curative, as there is constant communication
   between gallbladder and peritoneum.
   - f/u with tetracycline sensitivity
   - continue pain control with morphine
   - CT abdomen on [**8-17**]
   - c/s surgery for recs concerning future care
   .
   # Hypoxia: Mild hypoxia likely related to some degree of acute on
   chronic diastolic CHF given rales.  Evidence of fluid overload on
   physical exam.
   - continue insp spirometry 10 x per hour.
   - cont lasix 40mg PO
   - monitor I/O w/ goal of -500 to -1000mL
   - get patient out of bed
   .
   #Chest pain: Resolved.  History of chest heaviness resolved within a
   minute with SL nitro.  Patient states she has experienced this type of
   pain before.  No further episodes since yesterday AM.
   - SL nitro PRN, MSIR 7.5mg PRN, metoprolol 12.5mg, ASA 81mg, plavix
   .
   # DMII:
   - Continue insulin sliding scale, at home is on glipizide, hold
   glipizide while inpatient
   .
   # Hyperlipidemia:
   - Continue zetia and simvastatin
   .
   # Depression / Dementia:
   - Continue celexa, remeron and abilify (home meds)
   .
   # FEN: Full diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: left PICC
   .
   # Code:  DNR/DNI as discussed with patient and family
   .
   # Communication: Patient
   .
   # Disposition: Stable for c/o today
   ICU Care
   Nutrition: Full diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2185-8-12**] 08:06 PM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:c/o

2185-08-14 11:49:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Egg
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-8-13**] 07:17 PM
   Metronidazole - [**2185-8-14**] 08:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-8-14**] 04:54 AM
   Heparin Sodium (Prophylaxis) - [**2185-8-14**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Gastrointestinal: Abdominal pain, mild
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2185-8-14**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 53 (53 - 70) bpm
   BP: 98/54(64) {87/29(49) - 129/60(75)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.6 kg (admission): 82.2 kg
   Height: 62 Inch
             Total In:
                                                                    640 mL
                                                                    216 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    490 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    510 mL
   Urine:
                                                                    910 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     50 mL
   Balance:
                                                                   -330 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   516 K/uL
   127 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   31.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2185-8-8**]  10:57 AM
                             [**2185-8-8**]  05:40 PM
                             [**2185-8-9**]  05:37 AM
                             [**2185-8-10**]  05:32 AM
                             [**2185-8-10**]  06:15 PM
                             [**2185-8-11**]  04:32 AM
                             [**2185-8-12**]  04:21 AM
                             [**2185-8-12**]  06:10 PM
                             [**2185-8-13**]  03:28 AM
                             [**2185-8-14**]  04:38 AM
   WBC
   12.0
   14.0
   18.9
   16.5
   14.6
   10.1
   Hct
   37.4
   35.7
   37.1
   36.7
   34.8
   34.7
   34.0
   31.7
   Plt
   391
   416
   460
   453
   504
   516
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   TropT
   0.05
   0.04
   Glucose
   127
   102
   147
   139
   157
   130
   127
   Other labs: PT / PTT / INR:14.2/41.5/1.2, CK / CKMB /
   Troponin-T:16/4/0.04, ALT / AST:[**4-11**], Alk Phos / T Bili:137/0.3,
   Amylase / Lipase:/14, Differential-Neuts:76.9 %, Band:11.0 %,
   Lymph:14.7 %, Mono:6.1 %, Eos:2.2 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   84 yo female with stent and cholangitis now complicated by perforation
   of gall bladder who now has reasonable improvement with drainage and
   ongoing ABX Rx.  Specifically, she has improvement in WBC count and
   remains without fever.
   1)Cholangitis-
   -WIll continue abx for chronic course
   2)Gallbladder Performation-
   -Drain in place but without discrete loculation is some concern for
   chronic spread of bacterial pathogens leading to consideration of
   chronic ABX
   -CTX/Flagyl
   -Will consider timing of re-peat of CT scan for [**8-17**]
   3)Pain Control-
   -MSO4 and Tylenol
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 INEFFECTIVE COPING
 CHOLANGITIS
 DIABETES MELLITUS (DM), TYPE II
 CONSTIPATION (OBSTIPATION, FOS)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2185-8-12**] 08:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will need clear plan for care going forward
   and this will require sit down discussion with case management in
   regards to what is possible and this to be matched with patient and
   family priorities in regards to location where this can be maintained.
   Important in this is establishement of simplified ABX regimen if
   possible
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes